US07622469B2
4-Undecylamino-3,6-dihydro-6,6-dimethyl-2-(4′-hydroxybenzylamino)-1,3,5-triazine hydrochloride
25 ml of methanol, 40 ml of acetone and 0.1 ml of concentrated hydrochloric acid were added to 2.0 g (4.5 mmol) of N1-(4-hydroxybenzyl)-N5-undecyl-biguanide dihydrochloride, and the mixture was refluxed for 24 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (8:1.5)), and then recrystallized with 80% aqueous acetonitrile to obtain 0.73 g of colorless crystals having a melting point of 110 to 112° C.

reactant | methanol | 25 ml | CO | CH4O
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | N1-(4-hydroxybenzyl)-N5-undecyl-biguanide dihydrochloride | 4.5 mmol, 2.0 g | Cl.Cl.OC1=CC=C(CNC(=N)NC(=N)NCCCCCCCCCCC)C=C1
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 4-Undecylamino-3,6-dihydro-6,6-dimethyl-2-(4′-hydroxybenzylamino)-1,3,5-triazine hydrochloride | 0.73 g | Cl.C(CCCCCCCCCC)NC=1NC(=NC(N1)(C)C)NCC1=CC=C(C=C1)O | InChI=1S/C23H39N5O.ClH/c1-4-5-6-7-8-9-10-11-12-17-24-21-26-22(28-23(2,3)27-21)25-18-19-13-15-20(29)16-14-19;/h13-16,29H,4-12,17-18H2,1-3H3,(H3,24,25,26,27,28);1H
